data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_174204_2,[C:1]([C:2]([O:4][H:8])=[O:7])(/[N:6]=[N:5]\[N:3]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[N:6][N:5]([C:2]([O:4][H:8])=[O:7])[N:3]([H:9])[H:10])([H:11])[H:12],66.43593500001785
MR_116969_2,[C:1]1([O:5][H:9])([H:12])[C:3]([N:2]([O:4][H:8])[H:11])([O:6][H:10])[O:7]1>>[C:1]([N:2]([O:4][H:8])[H:11])([C:3]([O:6][H:10])=[O:7])([O:5][H:9])[H:12],27.970185000042846
MR_257174_0,[C:1]([N:3]([C:2]([O:4][O:5][H:7])=[O:6])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:3]([O:4][C:2]([O:5][H:7])=[O:6])[H:8])([H:9])([H:10])[H:11],71.39130250002665
MR_333060_0,[C:1](/[C:2]([N:4]([H:8])[H:9])=[N:5]\[N:3]([H:6])[H:7])([H:10])([H:11])[H:12]>>[C:1](/[C:2](=[N:4]\[H:8])[N:5]([N:3]([H:6])[H:7])[H:9])([H:10])([H:11])[H:12],43.667725000021065
MR_390265_0,[N:1](=[C:5](/[C:4]1([O:7][H:10])[N:2]([H:11])[C:3]1=[O:8])[H:12])\[O:6][H:9]>>[n:1]1([O:6][H:9])[c:3](=[O:8])[n:2]([H:11])[c:4]([O:7][H:10])[c:5]1[H:12],33.3503700000135
MR_227094_1,[C@@:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:6])[H:8])([N:4][O:5])[H:7]>>[C:1](\[C:2]([H:9])([H:10])[H:11])(=[C:3](\[O:6][N:4][O:5])[H:8])[H:7],23.85252999998784
MR_543508_0,[C:1]1([O:6][H:11])([O:7][H:12])[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[O:5][H:10])([O:8][H:13])[O:9]1>>[C:1]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[O:5][H:10])([O:8][H:13])[O:9][H:12])([O:6][H:11])=[O:7],14.02964500003378
MR_336740_1,[C:1]1([C:2]([H:15])([H:16])[H:17])([H:10])[C:4]([N:3]([N:5]([H:11])[H:12])[H:9])([C:6](=[C:7]([H:18])[H:19])[H:14])[N:8]1[H:13]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([N:5]([H:11])[H:12])[H:9])(/[C:4]([C:6](=[C:7]([H:18])[H:19])[H:14])=[N:8]/[H:13])[H:10],61.90977749999547
MR_161505_0,[C:1](/[N:8]=[C:3]([C:4](/[C:2]([H:16])([H:17])[H:18])=[C:6](\[N:5]([H:10])[H:11])[H:12])\[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:3]([O:7][H:9])=[C:4]([C:2]([H:16])([H:17])[H:18])[C@@:6]1([N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],50.54888999996521
MR_657126_1,[C:1]1([H:12])([H:13])[N:4]([O:8][H:9])[C:5]1([C:3]([H:16])([H:17])[H:18])[C:7]([C:2]([N:6]([H:10])[H:11])([H:14])[H:15])([H:19])[H:20]>>[C:1]([N:4]([C:2]([N:6]([H:10])[H:11])([H:14])[H:15])[O:8][H:9])([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:12])[H:13],56.65697499998856
MR_220435_1,[C:1](/[N:6]=[C:5](/[N:2]([N:3]([H:7])[H:8])[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:6]([C:5](/[N:2]=[N:3]/[H:8])([N:4]([H:9])[H:10])[H:11])[H:7])([H:12])([H:13])[H:14],45.2019625000176
MR_105823_1,[C:1]([C:3]([C:5]1([O:9][H:10])[C:2]([C:4]([H:16])([H:17])[H:18])([H:12])[O:7]1)([N:6]([H:14])[H:15])[H:13])(=[O:8])[H:11]>>[C:1]1([O:8][H:10])([H:11])[C:2]([C:4]([H:16])([H:17])[H:18])([H:12])[O:7][C:5](=[O:9])[C:3]1([N:6]([H:14])[H:15])[H:13],46.83095250000676
MR_252389_0,[C:1]1([N:5]([H:12])[H:13])([H:10])[C:2]([C:4](/[C:7](=[C:6](\[O:8][H:9])[H:16])[H:19])([H:17])[H:18])([H:11])[C:3]1([H:14])[H:15]>>[C:1](=[C:3](/[C:2]1([H:11])[C:4]([H:17])([H:18])[C:7]1([C:6]([O:8][H:9])([H:14])[H:16])[H:19])[H:15])(\[N:5]([H:12])[H:13])[H:10],63.424562499987616
MR_155710_0,[C:1]([N:2]([H:11])[H:12])([N:3]([H:9])[H:10])(/[C:4](=[N:6]\[O:5][H:7])[H:13])[H:8]>>[C@@:1]1([N:3]([H:9])[H:10])([H:8])[C@@:4]([N:2]([H:11])[H:12])([H:13])[N:6]1[O:5][H:7],58.80992750001028
MR_246982_0,[C:1](/[N:6]=[C:3](\[N:5]=[C:2](\[O:4][H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:6]1[C:2]([O:4][H:7])([H:8])[N:5]=[C:3]1[H:9])([H:10])([H:11])[H:12],44.9428049999942
MR_77064_1,[C:1]([N:3](/[C:4](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[O:7][H:8])[N:5]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:6]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[N:3]/[N:5]([H:9])[H:10])[O:7][H:8])[H:11])([H:12])([H:13])[H:14],69.61484999998177
MR_680887_0,[C:1]([C:2]([N:8]=[C:6]([H:15])[H:16])=[O:9])([C:3]([N:5]([H:13])[H:14])=[C:7]([H:17])[H:18])([N:4]([H:11])[H:12])[H:10]>>[C:1]1([N:4]([H:11])[H:12])([H:10])[C:2]([C:3]([N:5]([H:13])[H:14])=[C:7]([H:17])[H:18])([N:8]=[C:6]([H:15])[H:16])[O:9]1,48.36268000002747
MR_159958_0,[C:1](/[C:4](=[C:3](\[N:6]=[N:5]\[N:2]([H:7])[H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([H:10])[C:3]([H:9])=[N:6][N:5]1[N:2]([H:7])[H:8])([H:11])([H:12])[H:13],45.02187000000859
MR_350171_1,[C:1]([C:4]([H:19])([H:20])[H:21])([C:5]([H:22])([H:23])[H:24])([N:7]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])/[N:10]=[C:8](/[C:6]([H:25])([H:26])[H:27])[N:9]([H:11])[H:12]>>[C:1]([C:4]([H:19])([H:20])[H:21])([C:5]([H:22])([H:23])[H:24])=[N:10][C:8]([C:6]([H:25])([H:26])[H:27])([N:7]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])[N:9]([H:11])[H:12],59.61751999996878
MR_289011_1,[N:1]([N:3]([H:8])[H:9])([C:6](=[C:2]([N:4]([H:12])[H:13])[N:5]([H:10])[H:11])[H:14])[H:7]>>[N:1](\[N:3]([H:8])[H:9])=[C:6](/[C:2]([N:4]([H:12])[H:13])([N:5]([H:10])[H:11])[H:7])[H:14],66.9824874999577
MR_210669_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([N:4]([H:11])[H:12])=[N:7]/[O:5][H:8])([O:6][H:9])[H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3](/[N:4]([H:11])[H:12])[N:7]([O:5][H:8])[H:10])[O:6][H:9],67.23097749997237
